US05498618
A solution of 19 g of N-[1-(phenylmethyl)-4-methyl-4-piperidinyl]acetamide hydrochloride in 400 ml of methanol was hydrogenated at normal pressure and at room temperature with 5 g of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated, yielding 11.8 g of N-[4-methyl-4-piperidinyl]acetamide hydrochloride; mp. 230°-233° C. (interm. 3).

reactant | N-[1-(phenylmethyl)-4-methyl-4-piperidinyl]acetamide hydrochloride | 19 g | Cl.C1(=CC=CC=C1)CN1CCC(CC1)(C)NC(C)=O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 400 ml | CO | CH4O
catalyst | palladium-on-charcoal | 5 g | [Pd] | Pd
product | N-[4-methyl-4-piperidinyl]acetamide hydrochloride | 11.8 g | Cl.CC1(CCNCC1)NC(C)=O | InChI=1S/C8H16N2O.ClH/c1-7(11)10-8(2)3-5-9-6-4-8;/h9H,3-6H2,1-2H3,(H,10,11);1H
